US04354973
2-Benzyl-4-chlorobenzoic Acid
To a solution of 5.0 g of cupric sulfate in 3 liters of concentrated ammonium hydroxide was added 300 g (4.6 mole) of activated zinc dust and 100 g (0.42 mole) of 2-benzoyl-4-chlorobenzoic acid. The mixture was refluxed for 3 days, during which the volume was maintained by the addition of concentrated ammonium hydroxide. The mixture was cooled, and the excess zinc was removed by filtration. The filtrate was acidified by the addition of concentrated hydrochloric acid to a pH of 3. The resulting percipitate was collected by filtration, and dried to constant weight to give a white solid with mp 142°-144°.

reactant | 2-benzoyl-4-chlorobenzoic acid | 0.42 mole, 100 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C14H9ClO3
solvent | ammonium hydroxide | 3 liters | [OH-].[NH4+]
catalyst | zinc | 4.6 mole, 300 g | [Zn] | Zn
product | 2-Benzyl-4-chlorobenzoic Acid | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC(=C1)Cl | C14H11ClO2
